US05948820
(5) 4-(2-(2-Hydroxyphenyl)ethyl)-4-methyl-2-oxazolidinone
To a solution of 4-(2-(2-benzyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone (4.60 g) in ethanol (200 ml), 10% palladium-carbon (0.60 g) was added and the mixture was subjected to catalytic reduction at room temperature for 6 hours. Catalyst was filtered off form the reaction solution and the solvent was distilled away under reduced pressure. The residue was crystallized from ether-isopropyl ether to give the subject compound (2.0 g).

reactant | 4-(2-(2-benzyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone | 4.60 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC1(NC(OC1)=O)C | C19H21NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.60 g | [C].[Pd]
product | 4-(2-(2-Hydroxyphenyl)ethyl)-4-methyl-2-oxazolidinone | 2.0 g | OC1=C(C=CC=C1)CCC1(NC(OC1)=O)C | C12H15NO3
